US08202876B2
To the suspension of NaH (2.19 g, 55 mmol, 60% in oil) in DMSO (20 mL) is added methyl cyanoacetate (4.88 mL, 51 mmol) at 23° C. (cooled by ice-water if necessary). After the evolution of hydrogen has ceased, 4-chloro-6-methylsulfanyl-pyrimidine (3.56 g, 22 mmol) is added. The reaction is heated at 80° C. for 5 hours. The reaction mixture is then cooled to room temperature and quenched with ice-cooled saturated NH4Cl (50 mL). The solid is filtered and washed with water. 100 mL of hexanes is added to the solid and heated at 60° C. for 1 hour and then cooled to room temperature. The solid is filtered and washed with hexanes to afford cyano-(6-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester. 1H NMR 400 MHz (d6-DMSO) δ 8.42 (d, 1H), 6.64 (s, 1H), 3.71 (s, 3H), 2.55 (s, 3H). MS m/z 224.10 (M+1).

reactant | NaH | 55 mmol, 2.19 g | [H-].[Na+]
reactant | methyl cyanoacetate | 51 mmol, 4.88 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-6-methylsulfanyl-pyrimidine | 22 mmol, 3.56 g | ClC1=NC=NC(=C1)SC | C5H5ClN2S
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | cyano-(6-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester | COC(C(C1=NC=NC(=C1)SC)C#N)=O | C9H9N3O2S
